US03978071
A mixture of 5.2 g of ethyl 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetate, 20 ml of ethanol, 0.96 g of sodium hydroxide and 5 ml of water is stirred at room temperature for 10 minutes. The ethanol is distilled off under reduced pressure, and the residue is dissolved in water. The solution is adjusted to pH 6 by addition of dilute hydrochloric acid. The crystalline precipitate is filtered off, washed with water, and recrystallized from ethanol to give 2.3 g of 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetic acid as colorless crystals melting at 217°-221°C with decomposition.

reactant | ethyl 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetate | 5.2 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)CC(=O)OCC | C17H16N2O2
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.96 g | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetic acid | 2.3 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)CC(=O)O | C15H12N2O2
